US05708001
A solution of 17β-carbomethoxy-6-t-butoxycarbonyl-6-azaandrost-4-en-3-one (2.30 g, 5.33 mmol), example 1, part E, in methylene chloride (70 mL) at -78° C. is treated with diisobutylaluminum hydride (1.5M in toluene, 15 mL, 22.5 mmol). After 20 minutes the reaction is quenched with methanol (4 mL), methylene chloride added (150 mL), washed with 2N NaOH and water, dried over MgSO4 and concentrated to give crude 17hydroxymethyl-3-hydroxy-6-t-butoxycarbonyl-6-azaandrost-4-ene of sufficient purity to carry on to the following steps; yield: 2.16 g (99%).

reactant | 17β-carbomethoxy-6-t-butoxycarbonyl-6-azaandrost-4-en-3-one | 5.33 mmol, 2.30 g | C(=O)(OC)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)OC(C)(C)C | C25H37NO5
reactant | diisobutylaluminum hydride | 22.5 mmol, 1.5M, 15 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 17hydroxymethyl-3-hydroxy-6-t-butoxycarbonyl-6-azaandrost-4-ene | OCC1[C@]2(C)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)O)C(=O)OC(C)(C)C | C24H39NO4
